US04323469
5 g. N-butyl-carbamic acid benzoic acid sulfimide are suspended in the mixture of 1.67 g. phenol and 50 ml water, then while stirring (5 hours) a solution of 0.71 g. sodium hydroxyd in 50 ml water is added. After stirring another 3 hours the mixture is extracted with 2×30 ml ether. The ethereal extracts dried with sodium sulfate, then the solvent evaporated in vacuum at a temperature not above 30° C. 2.15 g. phenyl N-butyl-carbamate are obtained, which can be distilled at 146°-148° C. at 2 mmHg.

reactant | N-butyl-carbamic acid benzoic acid sulfimide | [SH2]=N.C(C1=CC=CC=C1)(=O)O.C(CCC)NC(O)=O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sodium | [Na] | Na
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | phenyl N-butyl-carbamate | C(CCC)NC(OC1=CC=CC=C1)=O | C11H15NO2
